US08629282B2
Racemic (3R*,4S*)-3-amino-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-4-ol (1.8 g, 4.1 mmol) was dissolved in THF (13.5 mL) and water (6.8 mL). To this solution was added TEA (0.69 mL, 4.9 mmol) and Boc2O (1.03 mL, 4.5 mmol). The reaction mixture was stirred for 2 hours. EtOAc was added and the layers were separated. The organic layer was washed with brine before it was dried (MgSO4), filtered, and concentrated to give racemic (3R*,4S*)-tert-butyl-4-hydroxy-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-3-ylcarbamate (2.2 g), which was separated into its individual enantiomers by chiral preparative SFC (Lux-Cellulose-2, column temperature 35° C., isocratic elution with mobile phase 20% EtOH+0.1% TEA in CO2, 150 mL/min, 250 nM, first product peak retention=8.15 min and second product peak retention=9.93 min) to give the separate enantiomers: tert-butyl (3S,4R)-4-hydroxy-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-3-ylcarbamate, Ex. 6 (729 mg) was eluted first at 8.15 min, [α]=−47.3° (c.=1.29, MeOH), LCMS=545.2 [M+H]+; and tert-butyl (3R,4S)-4-hydroxy-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-3-ylcarbamate, Ex. 7 (966 mg) was eluted second at 9.93 min, [α]=56.7° (c.=2.61, MeOH), LCMS=545.1 [M+H]+.

reactant | Racemic (3R*,4S*)-3-amino-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-4-ol | 4.1 mmol, 1.8 g | NC1COC2=CC(=CC=C2C1O)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C21H15F3N4O4
reactant | Boc2O | 4.5 mmol, 1.03 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 13.5 mL | C1CCOC1 | C4H8O
solvent | water | 6.8 mL | O | H2O
product | racemic (3R*,4S*)-tert-butyl-4-hydroxy-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-3-ylcarbamate | 2.2 g | C(C)(C)(C)OC(NC1COC2=CC(=CC=C2C1O)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)=O | C26H23F3N4O6
